US07179835B2
(2S)-2-((3S)-3-{[(6-Chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)-N,N-diethylpropanamide
To a solution of (2S)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoic acid (0.015 g) in DMF (1 ml) were added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.015 g), HOBT (0.01 g) and triethylamine (0.007 ml) and the mixture was stirred at room temperature for 30 min. Diethylamine (0.007 ml) was added and the resultant mixture stirred at room temperature for 16 h. The mixture was concentrated under reduced pressure and the residue was purified by mass directed preparative h.p.l.c. to give the title compound (0.008 g) as a colourless oil.

reactant | (2S)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoic acid | 0.015 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)O)C)=O | C17H17ClN2O5S
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.015 g | Cl.CN(CCCN=C=NCC)C
reactant | HOBT | 0.01 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Diethylamine | 0.007 ml | C(C)NCC | C4H11N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.007 ml | C(C)N(CC)CC | C6H15N
product | (2S)-2-((3S)-3-{[(6-Chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)-N,N-diethylpropanamide | 0.008 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)N(CC)CC)C)=O | C21H26ClN3O4S
